US07199147B2
Tetrahydro-2H-pyran-4-ylamine monohydrochloride (0.0402 g, 0.292 mmol), triethylamine (0.07 ml, 0.5 mmol), 1-hydroxybenztriazole (0.0460 g, 0.340 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (0.0606 g, 0.316 mmol) were added to a solution of 6-methyl-1H-indazole-5-carboxylic acid (0.0437 g, 0.248 mmol) in N,N-dimethylformamide (2 ml) and stirred overnight. A saturated aqueous sodium hydrogencarbonate solution was added thereto, followed by extraction with chloroform (×3), and the extract solution was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by replacement with toluene (three times), whereby a solid was precipitated. The solid obtained was suspended in ethyl acetate and stirred to be washed, and then it was collected by filtration and dried under reduced pressure to obtain 6-methyl-N-tetrahydro-2H-pyran-4-yl-1H-indazole-5-carboxamide (0.0587 g, 91%).

reactant | Tetrahydro-2H-pyran-4-ylamine monohydrochloride | 0.292 mmol, 0.0402 g | Cl.O1CCC(CC1)N
reactant | triethylamine | 0.5 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenztriazole | 0.340 mmol, 0.0460 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 0.316 mmol, 0.0606 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-methyl-1H-indazole-5-carboxylic acid | 0.248 mmol, 0.0437 g | CC1=C(C=C2C=NNC2=C1)C(=O)O | C9H8N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-methyl-N-tetrahydro-2H-pyran-4-yl-1H-indazole-5-carboxamide | 0.0587 g, 91% | CC1=C(C=C2C=NNC2=C1)C(=O)NC1CCOCC1 | C14H17N3O2
